US08557809B2
Step I: Preparation of 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-8-(piperazin-1-yl)quinoline
To a solution of tert-butyl 4-(2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperazine-1-carboxylate (0.022 g, 0.0436 mmol) in THF/MeOH (1 mL) was added 4 M HCl (0.109 mL, 0.436 mmol) in dioxane. The reaction mixture was stirred at ambient temperature for 16 hours then neutralized with 1 M NaOH and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified via flash column chromatography (40:1 DCM/MeOH followed by 10:1 DCM/MeOH) to provide 4 mg (23%) of desired product as a yellow solid. MS APCI (+) m/z 405.4 (M+1) detected.

reactant | tert-butyl 4-(2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperazine-1-carboxylate | 0.0436 mmol, 0.022 g | COCCOC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C27H32N6O4
reactant | HCl | 0.436 mmol, 4 M, 0.109 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | THF MeOH | 1 mL | C1CCOC1.CO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-8-(piperazin-1-yl)quinoline | 4 mg, 23% | COCCOC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)N2CCNCC2 | C22H24N6O2
